US05318993
4-Methyl-1-[[[3-(Trifluoromethyl)phenyl]methyl]sulfonyl]benzene
3-Trifluoromethylbenzyl bromide (50 mmole) and sodium p-toluenesulfinate (65 mmole) were dissolved in 100 mL of dry DMF. The mixture was stirred at about 23° for about 18 hours then diluted with water. The sulfone crystallized from the aqueous mixture and was filtered. The compound was purified by recrystallization (EtOH). Colorless plates, mp 139°-140°: IR (KBr) 2954, 1614, 1598, 1450, 1332, 1312, 1288, 1164, 1142, 1116, 1074 cm-1 ; 1H NMR (CDCl3) δ 2.44 (s, 3H), 4.34 (s, 2H), 7.16 (s, 1H), 7.26 (d, J=8.1 Hz, 2H), 7.42 (m, 1H), 7.50 (d, J=8.1 Hz, 2H), 7.58 (d, J=7.5 Hz, 1H); MS m/e 315 (MH+).

reactant | 3-Trifluoromethylbenzyl bromide | 50 mmole | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | sodium p-toluenesulfinate | 65 mmole | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Methyl-1-[[[3-(Trifluoromethyl)phenyl]methyl]sulfonyl]benzene | CC1=CC=C(C=C1)S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C15H13F3O2S
